US09126998B2
rac-N-(2-Amino-2,4-dimethylpentyl)-2,6-dimethyl-8-(3-methylbutoxy)imidazo[1,2-a]pyridine-3-carboxamide
175 mg (0.63 mmol) of 2,6-dimethyl-8-(3-methylbutoxy)imidazo[1,2-a]pyridine-3-carboxylic acid Example 252A were initially charged in DMF (2.2 ml), 214 mg (0.67 mmol) of TBTU, 0.28 ml (2.53 mmol) of 4-methylmorpholine and 91 mg (0.70 mmol) of rac-2,4-dimethylpentane-1,2-diamine were added and the reaction mixture stirred at RT overnight. The mixture was diluted with water/TFA and purified by preparative RP-HPLC (acetonitrile/water gradient with addition of 0.1% TFA). After concentration, saturated aqueous sodium bicarbonate solution was added to the residue and the mixture was extracted three times with dichloromethane. The combined organic phases were dried over sodium sulphate, filtered off and concentrated. This gave 225 mg (90% of theory, purity 98%) of the target compound.

reactant | 2,6-dimethyl-8-(3-methylbutoxy)imidazo[1,2-a]pyridine-3-carboxylic acid | 0.63 mmol, 175 mg | CC=1N=C2N(C=C(C=C2OCCC(C)C)C)C1C(=O)O | C15H20N2O3
reactant | TBTU | 0.67 mmol, 214 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 4-methylmorpholine | 2.53 mmol, 0.28 ml | CN1CCOCC1 | C5H11NO
reactant | rac-2,4-dimethylpentane-1,2-diamine | 0.70 mmol, 91 mg | CC(CN)(CC(C)C)N | C7H18N2
solvent | DMF | 2.2 ml | CN(C)C=O | C3H7NO
solvent | water TFA | O.C(=O)(C(F)(F)F)O
product | rac-N-(2-Amino-2,4-dimethylpentyl)-2,6-dimethyl-8-(3-methylbutoxy)imidazo[1,2-a]pyridine-3-carboxamide | NC(CNC(=O)C1=C(N=C2N1C=C(C=C2OCCC(C)C)C)C)(CC(C)C)C | C22H36N4O2
